US04271167
The procedure of Example 1 is followed, but a suspension of 3-(4-fluorophenyl)-3-oxopropyl 5-chloropyrid-2-yldithiocarbamate (25.0 g) in acetonitrile (225 cc) and a solution of potassium borohydride (5.6 g) in distilled water (56 cc) are used as the starting materials at a maximum of 25° C. The reaction is allowed to proceed for 1 hour at between 20° and 25° C. The residual oil thus obtained (20.2 g) is dissolved in a mixture (100 cc) of chloroform (80 cc) and ethyl acetate (20 cc) and the solution is chromatographed on a column of diameter 4 cm, containing silica (0.063-0.2 mm, 450 g). Elution is carried out first with a mixture of chloroform (800 cc) and ethyl acetate (200 cc), this eluate being discarded, and then with a mixture (2,500 cc) of chloroform (2,000 cc) and ethyl acetate (500 cc), this eluate being evaporated under reduced pressure (20 mm Hg) at 50° C. The resulting product (16.5 g) is recrystallised from boiling isopropyl ether (80 cc). After filtering the boiling solution and then cooling for 2 hours at 2° C., the crystals which have appeared are filtered off, washed 4 times with ice-cooled isopropyl ether (20 cc in total), and dried under reduced pressure (0.1 mm Hg) at 45° C. 3-(4-Fluorophenyl)-3-hydroxypropyl 5-chloropyrid-2-yldithiocarbamate (12.1 g), which melts at 86° C., is thus obtained.

reactant | 3-(4-fluorophenyl)-3-oxopropyl 5-chloropyrid-2-yldithiocarbamate | 25.0 g | ClC=1C=CC(=NC1)NC(SCCC(=O)C1=CC=C(C=C1)F)=S | C15H12ClFN2OS2
reactant | potassium borohydride | 5.6 g | [BH4-].[K+]
solvent | acetonitrile | 225 cc | C(C)#N | C2H3N
solvent | water | 56 cc | O | H2O
solvent | chloroform | 100 cc | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 20 cc | C(C)(=O)OCC | C4H8O2
product | 3-(4-Fluorophenyl)-3-hydroxypropyl 5-chloropyrid-2-yldithiocarbamate | 12.1 g | ClC=1C=CC(=NC1)NC(SCCC(O)C1=CC=C(C=C1)F)=S | C15H14ClFN2OS2
